US08685991B2
Part A. Preparation of methyl 3-tert-butyl-2-hydroxy-5-nitrobenzoate
Methyl 3,5-di-tert-butyl-2-hydroxybenzoate (28.66 g, 108.4 mmol) was dissolved with stirring in 430 mL glacial acetic acid and the resulting mixture was treated drop wise with fuming nitric acid (90%, 179.26 mL). When the addition was complete, the resulting mixture was stirred for 2.5 h. The reaction mixture was poured into a 2.0 L of crushed ice and allowed to stand 30 min. Afterwards, 1.0 L of water was added and the ice water mixture was allowed to melt. The mixture was then filtered, washed with water and dried to provide the title compound (24.57 g, 89%).

reactant | Methyl 3,5-di-tert-butyl-2-hydroxybenzoate | 108.4 mmol, 28.66 g | C(C)(C)(C)C=1C(=C(C(=O)OC)C=C(C1)C(C)(C)C)O | C16H24O3
reactant | nitric acid | 179.26 mL | [N+](=O)(O)[O-] | HNO3
reactant | water | 1.0 L | O | H2O
solvent | acetic acid | 430 mL | C(C)(=O)O | C2H4O2
product | methyl 3-tert-butyl-2-hydroxy-5-nitrobenzoate | 24.57 g, 89% | C(C)(C)(C)C=1C(=C(C(=O)OC)C=C(C1)[N+](=O)[O-])O | C12H15NO5
